US04804770
A. 3-[[(1,1-Dimethylethyl)dimethylsilyl]-oxy]pentanedioic acid, diethyl ester [Ref.: JOC 49, 3657 (1984)]
To a solution of imidazole (40.85 g, 600 mmole) in dry CH2Cl2 (300 ml) was added dropwise a solution of t-butyldimethylsilyl chloride (45.2 g, 300 mmole) in dry CH2Cl2 (100 ml). After 15 minutes, the solution was treated dropwise over a 40 minute period with a solution of diethyl 3-hydroxyglutarate (40.8 g, 200 mmole) in CH2Cl2 (100 ml). After stirring at room temperature under argon for 18 hours, the mixture was washed with water and saturated NaCl solution, dried over Na2SO4 and evaporated. The crude product (73.04 g) was purified by chromatography on Merck silica gel (4000 ml), eluting with ethyl ether-hexane (1:9) to give title compound (~65 g, theory 63.6) as a colorless oil.

reactant | imidazole | 600 mmole, 40.85 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 300 mmole, 45.2 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | diethyl 3-hydroxyglutarate | 200 mmole, 40.8 g | OC(CC(=O)OCC)CC(=O)OCC | C9H16O5
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-[[(1,1-Dimethylethyl)dimethylsilyl]-oxy]pentanedioic acid, diethyl ester | ~65 g | CC(C)(C)[Si](OC(CC(=O)OCC)CC(=O)OCC)(C)C | C15H30O5Si
